US05089504
3-Butyryl-8-vinylquinolone (23 g, 95 mmol) was heated under reflux in a mixture of phosphoryl chloride (I00 ml) and chloroform (100 ml) for 45 minutes. The solvent was evaporated and the residue was mixed with ice, neutralized with ammonia solution and extracted into dichloromethane. The organic solution was washed successively with sodium hydrogen carbonate solution and brine, dried (anhyd. MgSO4), filtered and evaporated. Chromatography (silica gel, 2% methanol in dichloromethane) afforded 3-butyryl-4-chloro-8-vinylquinoline as a brown oil (9.5 g, 38.5%).

reactant | 3-Butyryl-8-vinylquinolone | 95 mmol, 23 g | C(CCC)(=O)C=1C(NC2=C(C=CC=C2C1)C=C)=O | C15H15NO2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-butyryl-4-chloro-8-vinylquinoline | 9.5 g, 38.5% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C=C | C15H14ClNO
